US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(5-methyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 5-methyl-5,6,7,8-tetrahydro-[1,6]naphthyridine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 5-methyl-5,6,7,8-tetrahydro-[1,6]naphthyridine | CC1C=2C=CC=NC2CCN1 | C9H12N2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(5-methyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C=1C=CC=NC1CC2)C | C16H14BrN5O
